US08809342B2
(±)-(tetrahydro-2H-pyran-4-yl)(4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)methanol
A round bottom flask at −78° C. was charged with 4-bromo-4′-(trifluoromethyl)-1,1′-biphenyl (192 mg, 0.638 mmol) and THF (2.1 mL). nBuLi 2.5M in Hexane (281 μL, 702 mmol) was then added dropwise. The mixture stirred for one hour at −78° C. after which time, tetrahydro-2H-pyran-4-carbaldehyde (86 μL, 0.83 mmol) was added in one portion and mixture stirred for 30 minutes. Reaction mixture warmed up to 0° C. and stirred for an additional hour. Reaction quenched with ammonium chloride solution (aq. sat.) and extracted twice with ethyl acetate. Combined organic layers washed with brine, dried over sodium sulfate, filtered and concentrated to provide the crude oil. Purification by silica gel flash chromatography (MeOH/DCM) to give the title compound as a colorless oil (118 mg, 55.0%). MS (M): 336.

reactant | 4-bromo-4′-(trifluoromethyl)-1,1′-biphenyl | 0.638 mmol, 192 mg | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C13H8BrF3
reactant | nBuLi | 2.5M | [Li]CCCC
reactant | Hexane | 702 mmol, 281 μL | CCCCCC | C6H14
reactant | tetrahydro-2H-pyran-4-carbaldehyde | 0.83 mmol, 86 μL | O1CCC(CC1)C=O | C6H10O2
solvent | THF | 2.1 mL | C1CCOC1 | C4H8O
product | (±)-(tetrahydro-2H-pyran-4-yl)(4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)methanol | 118 mg, 55.0% | O1CCC(CC1)C(O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C19H19F3O2
